US07566803B2
D. 4-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzonitrile
To a mixture of 1-{4-[1-ethyl-1-(4-iodo-phenyl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (3.0 g 6.27 mmol) and DMF (30 mL) is added Zn(CN)2 (0.44 g, 3.76 mmol), Pd2(dba)3 (0.29 g, 0.31 mmol), and DPPF (0.42 g, 0.75 mmol). The solution is heated at 100° C. overnight, diluted with Et2O (200 mL), washed with 4:1:4 sat NH4Cl:Conc. NH4OH:water (100 mL), water (100 mL), brine (100 mL), dried MgSO4, filtered and concentrated. The residue is purified by ISCO (10%-2-% EtOAc gradient) to furnish the title compound (1.1 g, 2.91 mmol, 46%).

reactant | 1-{4-[1-ethyl-1-(4-iodo-phenyl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 6.27 mmol, 3.0 g | C(C)C(CC)(C1=CC=C(C=C1)I)C1=CC(=C(OCC(C(C)(C)C)=O)C=C1)C | C24H31IO2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 200 mL | CCOCC | C4H10O
catalyst | Zn(CN)2 | 3.76 mmol, 0.44 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.31 mmol, 0.29 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 0.75 mmol, 0.42 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 4-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzonitrile | 2.91 mmol, 1.1 g, 46% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC=C(C#N)C=C1)C)=O)(C)C | C25H31NO2
